Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Abdominal Pain/Diarrhea 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ female with a past medical history 
of anxiety, and depression who presented with one week of 
abdominal pain and diarrhea. She reports the onset of sharp, 
stabbing, diffuse abdominal pain approximately one week ago that 
"comes and goes" and is accompanied by watery, yellow, 
non-bloody, non-melanic diarrhea. She reports chills and 
subjective fevers, but denies vomiting, hematochezia/melena, 
vaginal discharge, dysuria/hematuria, recent travel, sick 
contacts or consumption of poorly-cooked food. Her menses are 
regular, lasting ___ days without excessive cramping and her 
last menses ended on ___. Shortly thereafter, she was 
sexually active with her boyfriend and thought she might have 
gotten pregnant so she contacted local clinic and took Plan B. 
The following day, her abdominal pain started and she claimed 
she was mostly concerned about an "ectopic pregnancy" as she had 
some vaginal spotting. Nothing seems to worsen or ameliorate her 
abdominal pain. She was seen at ___ on the day 
prior to admission at which time a pelvic exam was performed and 
a GC/Chlamydia swab was negative (results charted/filed). She 
presented to the ___ ED for her continued symptoms of "sharp" 
intermittent abdominal pains and diarrhea.  
.  
In the ED, vitals were stable. UA, Urine HCG and Urine 
toxicology screens were all negative. An ESR was normal at 3. 
Lipase was mildly elevated to 99. Rectal exam revealed guaiac 
negative stool. A pelvic exam revealed mild cervical motion 
tenderness and ob/gyn was consulted with recommendation for a 
transvaginal ultrasound, which was unremarkable. A CT abdomen 
was peformed which also showed no abnormalities. Patient was 
treated empirically for PID with Doxycycline and Cefotexan and 
received a total of 7 mg of IV Morphine without relief and was 
thus admitted to the medicine service for pain control.  

 
Past Medical History:
-Anxiety  
-Depression  
(Sees psychiatrist Dr. ___, here at ___
 
Social History:
___
Family History:
No family history of IBD. Questionable history of celiac sprue 
in grandmother, though patient is unsure. 
 
Physical Exam:
Vitals: Temp - 97.0F, BP - 112/70, HR - 60/regular, RR -18, 
O2-100% on room air  
General: Young, thin, pale female with multiple tattoos who 
appears to be in no acute distress. Drowsy with flat affect  
HEENT: NC/AT; PERRLA, EOMI; OP clear, nonerythematous 
nares/throat  
Neck: Supple, no LAD, no thyromegaly  
Chest/CV: S1/S2 regular, no murmurs/rubs/gallops appreciated  
Lungs: CTA bilaterally  
Abd: Soft, diffusely tender with mild palpation, mostly in the 
RLQ and LUQ, no rebounding or guarding, normoactive bowel sounds 
x 4 quadrants, no distension.   
Ext: No pedal edema, no cyanotic features  
Skin: No lesions/rashes
Neuro: CNs ___ grossly in tact, no focal sensory or motor 
deficits, gait assessment WNL

.  
.  

 
Pertinent Results:
ADMISSION LABS:
___ GLUCOSE-98 UREA N-12 CREAT-0.9 SODIUM-141 POTASSIUM-3.9 
CHLORIDE-104 TOTAL CO2-27 ANION GAP-14
___ ALT(SGPT)-11 AST(SGOT)-17 ALK PHOS-107 TOT BILI-0.5, 
LIPASE-99*
ALBUMIN-5.1*
___ ASA-NEG ETHANOL-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___  WBC-6.0# RBC-4.72 HGB-14.6 HCT-41.1 MCV-87 MCH-30.9 
MCHC-35.4* RDW-13.3, Plt 294, -diff: NEUTS-58.7 LYMPH-36.3 
MONO-4.1 EOS-0.5 BASO-0.3
___ 12:45PM   SED RATE-3
.

URINE STUDIES:
___ URINE -Yellow APPEAR-Clear SP ___
___ URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG GLUCOSE-NEG 
KETONE-15 BILIRUBIN-NEG UROBILNGN-1 PH-7.0 LEUK-NEG
___ URINE TOX -bzd-NEG barbit-NEG opiates-NEG cocaine-NEG 
amphetmn-NEG mthdone-NEG
.
IMAGING:

CT ABD AND PELVIS W/CONTRAST: 
The lung bases are clear without concerning nodule, opacity, or 
effusion. The visualized portion of the heart is unremarkable 
without pericardial effusion. No definite focal liver lesions 
are identified. The gallbladder, spleen, adrenal glands, 
stomach, pancreas, and visualized abdominal large and small 
bowel are unremarkable. The kidneys enhance symmetrically 
without focal lesions detected. The abdominal aorta is not 
focally dilated throughout its course. The celiac trunk, SMA, 
and ___ are patent. No free fluid or free air is present within 
the abdomen. CT PELVIS WITH CONTRAST: The rectum, sigmoid colon, 
and uterus are unremarkable. The adnexal structures are grossly 
within normal limits, however, findings are better delineated on 
pelvic ultrasound from the same date. No tubular structures 
detected within the right lower quadrant to suggest acute 
appendicitis. The bladder is moderately distended with fluid 
without focal lesion detected within. No suspicious lytic or 
sclerotic lesions are identified. 
IMPRESSION: No findings to explain patient's acute abdominal 
pain. 
.
TRANSVAGINAL US: Transabdominal and transvaginal ultrasound was 
performed, the latter for better visualization of the 
endometrium and adnexa. 
The uterus is anteverted, anteflexed, without focal lesion 
detected within. The endometrium is normal in appearance 
measuring 6 mm. There is a small amount of physiologic free 
fluid. The ovaries are normal in size and appearance with normal 
follicular activity within. Normal arterial and venous waveforms 
are demonstrated to both ovaries. No adnexal masses are 
identified to suggest tubo-ovarian abscess. There is no 
hydronephrosis within the kidneys. The uterus measures 6.2 x 3.6 
x 2.5 cm transabdominally. Normal pelvic ultrasound without 
ultrasound evidence of tubo-ovarian abscess. 
.
OTHER MICROBIOLOGY:
___ SWAB/Cervical. VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS 
: 
No Virus isolated.
.
___ G & C SWAB : Chlamydia trachomatis, Nucleic Acid Probe, 
with Amplification: Negative for Chlamydia trachomatis by PCR. 
NEISSERIA GONORRHOEAE (GC), NUCLEIC ACID PROBE, WITH 
AMPLIFICATION
:Negative for Neisseria Gonorrhoeae by PCR. 
.
___ URINE CULTURE: URINE CULTURE -w/MIXED BACTERIAL FLORA ( 
>= 3 COLONY TYPES), CONSISTENT WITH SKIN AND/OR GENITAL 
CONTAMINATION
.

 
Brief Hospital Course:
In summary, the patient is a ___ female who presented 
with 1 week of worsening abdominal pain and diarrhea.  
.  
# Abdominal Pain/Diarrhea: After an extensive imaging and lab 
work-up the patient's abdominal pain etiology was still unclear. 
Work-up data with transvaginal ultrasound, abdominal & pelvic 
CT, vaginal swabs, and blood labs all essentially ruled out 
endometriosis, fibroids, ovarian cysts w/torsion, ectopic 
pregnancy, GC/Chlamydia, appendicitis, kidney stones, colon 
pathology. Despite her benign gynecologic lab/imaging workup she 
had some mild tenderness on pelvic exam at her cervix. Thus, she 
was treated empirically for PID with Doxycycline and Cefotexan 
and advised that if this pain did not resolve or if she noticed 
any unusual odor, discharge or bleeding that she needed to 
follow-up with her primary care physician or see ___ gynecologist 
as soon as possible. 
.
Ultimately, based on the temporality and description of watery 
diarrhea it was felt that Ms. ___ have been 
experiencing a form of viral gastroenteritis, though the 
prominent abdominal pain was fairly atypical. Moreover, viral 
gastroenteritis is frequently associated with brief elevations 
in lipase which was noted with Ms. ___ labs with a 
lipase of 99. Pancreatitis was unlikely as her symptoms appeared 
to quickly resolve and she was able to tolerate a regular diet 
well within hours of her admission. Abdominal CT also showed no 
radiological signs of pancreatitis. Initially, vasculitis was 
considered but felt to be less likely based on normal ESR and 
guaiac negative stool. A rarer cause such as porphyria was 
briefly entrtained but this is usually more chronic, relapsing 
abdominal pain, often with neurological symptoms which the 
patient lacked. Lastly, the team considered IBD as an etiology 
given the component of diarrhea, but this was also doubted as 
IBD usually presents less acutely with a more chronic course. 
.
Upon admission she was initially placed on clear liquids but 
soon advanced to a regular diet which she tolerated very well 
with no additional diarrhea or vomiting and very minimal nausea. 
She was given additional IVFs for basic rehydration. For 
abdominal pain control she was given low doses of IV Dilaudid 
and then switched to PRN oral oxycodone. Compazine was given for 
nausea relief and Ativan was also given for dual anxiety and 
anti-nausea effects. Stool cultures and labs were ordered but 
the patient's diarrhea seemed to have abated after admission. 
She stated that she was not usually able to go to the bathroom 
in hospitals and had "trouble" feeling comfortable enough to 
have a bowel movement. Unfortunately, as sample was not 
collected but given the patient's desire to be discharged and 
her rapid clinical improvement she was not kept in the hospital 
simply to collect these studies. She was told, however, that if 
her diarrhea returned that she should return to the ED or call 
her primary care provider as stool studies would be an important 
part of the workup. At time of discharge home she was pain free 
and her nausea was nearly gone. She had no residual cramping or 
emesis either and she appeared much more alert and hydrated with 
moist mucous membranes and a less pallid complexion. She was 
asked to continue Tylenol as needed OTC for a week for any 
residual abdominal pain but not to exceed 3g/day.      
.
# Anxiety - During her hospital course she was given Ativan ___ 
mg PO every 4 hours as needed for anxiety. She denied any 
suicidal or homicidal thoughts but seemed to have a sad, flat 
affect. She reported no hallucinations or changes in her eating 
or sleeping habits. She described her mood as "steady" but 
explained she still got sad at times. She explained that she 
felt she did not need her Klonopin anymore so she had gradually 
tapered herself off of it over a period of ___ weeks. She took 
two tablets 3 days prior to admission. In the past she had taken 
up to 300mg daily of Effexor XR but she reported that she 
stopped taking this several months ago. She was started on 20mg 
Celexa for both anxiety and depression. Compliance was addressed 
and encouraged and she was advised to discuss possible dose 
adjustments at her upcoming primary care appointment and/or with 
her psychiatrist Dr. ___. She was also warned that abrupt 
discontinuation of this medication may be harmful. For 
additional anxiety control she was asked to restart her prior 
regimen of ___ Klonopin tablets as needed up to three times 
daily. The patient's psychiatrist was emailed regarding her 
condition and the patient was asked to call Dr. ___ to schedule 
an appointment as soon as possible.     
.  
# Fluids, electrolytes and nutrition: Daily electrolytes were 
monitored and repleted as needed and she was placed on a clear 
liquid diet and then soon advanced to a regular diet which she 
tolerated very well. Diarrhea and nausea resolved by time of 
discharge.  
.
#Prophylaxis: Ms. ___ was given subcutaneous Heparin for 
DVT prophylaxis and no bowel regimen was given in the setting of 
her recent diarrhea. 
.
The patient was maintained as a full code status for the 
entirety of her hospital stay and communication occurred 
directly with the patient on a daily basis. 
 
.
 
Medications on Admission:
Klonopin ___ mg TID (recently self-tapered and not currently 
taking)  
.  

 
Discharge Medications:
1. Klonopin 1 mg Tablet Sig: ___ Tablets PO three times a day as 
needed for anxiety: Please be aware this medication can make you 
drowsy so do not drive or operate equipment/machinery. Abruptly 
stopping this medicine is harmful. Please take as directed .
Disp:*100 Tablet(s)* Refills:*0*
2. Tylenol ___ mg Tablet Sig: ___ Tablets PO three times a day 
as needed for abdominal pain  for 6 days: Do not exceed 4g in 24 
hours .  
3. Celexa 20 mg Tablet Sig: One (1) Tablet PO once a day: Please 
take as prescribed, please follow-up with your psychiatrist 
within ___ weeks for additional medication instruction .
Disp:*30 Tablet(s)* Refills:*1*
4. Multivitamin     Capsule Sig: One (1) Capsule PO once a day.  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Gastroenteritis 
Abdominal Pain
.
Secondary Diagnosis:
Anxiety 
Depression

 
Discharge Condition:
At time of discharge the patient had stable vital signs and her 
diarrhea and abdominal pain had improved. She denied any 
suicidal or homicidal thoughts. 

 
Discharge Instructions:
It was a pleasure taking care of you during your hospitalization 
at ___
.
You were admitted with abdominal pain and diarrhea. Multiple 
x-ray and imaging studies were done on your abdomen but showed 
no evidence of intestinal obstructions/blockages or 
abnormalities.  You were also seen by the obstetric/gynecology 
physicians and it was felt that you had no gynecologic 
abnormalities. Your pelvic ultrasound showed normal appearing 
ovaries and a normal uterus.  
.
If you develop fevers, chills, vomiting, worsening abdominal 
pains, diarrhea, bloody stool, irregular vaginal bleeding, 
vaginal discharge or lesions or any other health concerns please 
come to the emergency room immediately or call your primary care 
physician. 
.
Also, if you have any thoughts of wanting to harm yourself or 
anyone else or have a depressed mood please contact your 
psychiatrist or come to the emergency room immediately. 
.
Medications Instructions:
.
We have started you on a low dose of an anti-depressant. Please 
take Celexa 20mg daily. You can discuss possible dose 
adjustments at your upcoming primary care appointment and/or 
with your psychiatrist Dr. ___. Abrupt discontinuation of this 
medication may be harmful. Please take as directed. 
.
Please take Tylenol as instructed for 6 days as needed for 
abdominal pain control.
.
Please take a daily multivitamin.
.
Please take ___ Klonopin tablets as needed for anxiety 
control up to three times daily. Abrupt discontinuation of this 
medication can be harmful. Please note that this medication 
causes drowsiness so do not drive or operate any skilled 
equipment or machinery while taking it. Follow-up with your 
psychiatrist regarding adjustments of this medicine over the 
next ___ weeks. 
 .
 
Followup Instructions:
___